US07723352B2
To a solution of 3-tert-butyl-6-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one (210 mg) in 7 mL DMP were added potassium carbonate (281 mg) and N-phenyl triflimide (731 mg). The reaction was stirred at room temp for 90 min, then partitioned between water and EtOAc. The organic solution was dried (Na2SO4) and concentrated, then purified by flash chromatography (20% EtOAc in hexanes) to give 175 mg of 3-tert-butyl-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl trifluoromethanesulfonate.

reactant | 3-tert-butyl-6-hydroxy-2-methyl-4-phenylisoquinolin-1(2H)-one | 210 mg | C(C)(C)(C)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)O)=O)C | C20H21NO2
reactant | potassium carbonate | 281 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenyl triflimide | 731 mg | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | 3-tert-butyl-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-6-yl trifluoromethanesulfonate | 175 mg | FC(S(=O)(=O)OC=1C=C2C(=C(N(C(C2=CC1)=O)C)C(C)(C)C)C1=CC=CC=C1)(F)F | C21H20F3NO4S
